US07842324B2
2-(4-boronophenyl)-2-methylpropanoic acid:
To a solution of 2-(4-bromophenyl)-2-methylpropanoic acid (15 g, 61.7 mmol) in anhydrous THF (150 mL) was added at −78° C. under argon a 2.5 M solution of n-butyllithium in hexane (37 ml, 92.6 mmol) dropwise, followed by triisopropyl borate (43 ml, 185.1 mmol). After the addition, the reaction mixture was stirred at −50° C. for 2 hrs and allowed to warm up to room temperature and stirred over night. The reaction mixture was quenched with 1 N HCl then extracted with EtOAc and washed successively with water and brine, dried over MgSO4, filtered and evaporated to give 13 g of product as a white solid in 99% yield. 1H NMR (400 MHz, DMSO): δ 1.41 (s, 6H), 7.25-7.27 (d, 2H), 7.29-7.47 (dd, 1H), 7.68-7.70 (d, 1H), 12.31 (s, 1H).

reactant | 2-(4-bromophenyl)-2-methylpropanoic acid | 61.7 mmol, 15 g | BrC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 92.6 mmol, 37 ml | CCCCCC | C6H14
reactant | triisopropyl borate | 185.1 mmol, 43 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(4-boronophenyl)-2-methylpropanoic acid | 13 g, 99% yield | B(O)(O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C10H13BO4
